US09238639B2
Methyl(6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetate
To a mixture of methyl((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)acetate (367 mg) in toluene (5.0 mL) was added DDQ (272 mg). The mixture was stirred at 80° C. for 17 h. After cooling, the insoluble material was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (263.6 mg).

reactant | methyl((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)acetate | 367 mg | COC(C[C@@H]1COC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)=O | C18H16Cl2O4
reactant | DDQ | 272 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl(6-((2,4-dichlorobenzyl)oxy)-1-benzofuran-3-yl)acetate | 263.6 mg | COC(CC1=COC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)=O | C18H14Cl2O4
